US04235908
7.0 Grams (0.02 mole) of 2-[4-(7-chloro-4-quinolylamino)phenyl]acetic acid hydrochloride were dissolved in 150 milliliters of dimethyl sulphoxide by heating the stirred mixture to 100° C. under nitrogen. The solution was cooled to room temperature, 6.48 grams (0.04 mole) of carbonyl di-imidazole were added and the mixture was stirred for 21/2 hours under nitrogen. 7.68 Grams (0.06 mole) of 3-amino-1-ethylpiperidine were added, the solution was stirred for another 21/2 hours and poured into 500 milliliters of water. The mixture was refrigerated overnight and the resulting solid was broken up, stirred with water, collected and dried. The solid was dissolved in chloroform and chromatographed on an alumina column made up in chloroform. Elution with chloroform/methanol (4:1) gave 8.15 grams (92.5% yield) of 2-[4-(7-chloro-4-quinolylamino)phenyl]-N-(1-ethyl-3-piperidyl)acetamide monohydrate, melting point 160°-162° C.

reactant | 2-[4-(7-chloro-4-quinolylamino)phenyl]acetic acid hydrochloride | 0.02 mole | Cl.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)CC(=O)O
reactant | carbonyl di-imidazole | 0.04 mole, 6.48 grams | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 3-amino-1-ethylpiperidine | 0.06 mole | NC1CN(CCC1)CC | C7H16N2
reactant | water | 500 milliliters | O | H2O
solvent | dimethyl sulphoxide | 150 milliliters | CS(=O)C | C2H6OS
product | 2-[4-(7-chloro-4-quinolylamino)phenyl]-N-(1-ethyl-3-piperidyl)acetamide monohydrate | 8.15 grams, 92.5% yield | O.ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)CC(=O)NC1CN(CCC1)CC | InChI=1S/C24H27ClN4O.H2O/c1-2-29-13-3-4-20(16-29)28-24(30)14-17-5-8-19(9-6-17)27-22-11-12-26-23-15-18(25)7-10-21(22)23;/h5-12,15,20H,2-4,13-14,16H2,1H3,(H,26,27)(H,28,30);1H2
